### ISSUE TITLE
grind: cannot teach grind that (¬(x = none)) -> (∃ y, x = some y)

### ISSUE THREAD

**Issue by safinaskar** [leanprover/lean4#11897]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

grind cannot prove `(¬(x = none)) -> (∃ y, x = some y)`. Moreover, it is impossible to teach grind this reasoning principle, such that it can use it in bigger proofs.

I have some big theorem I want to prove (I don't share it, but I can share it if you want), and this big theorem requires to prove `(¬(x = none)) -> (∃ y, x = some y)` as one of its steps. I hoped that grind will be able to prove whole theorem, but, unfortunately, because of this step grind was unable to prove the theorem, and thus I had to resort to big proof with many steps.

Let me describe this issue in more details: grind cannot prove `(¬(f x = none)) -> (∃ y, f x = some y)` (note `f x` here) and this is impossible to teach grind principle `(¬(x = none)) -> (∃ y, x = some y)` (note lack of `f x` here) in such way that grind can use it to prove `(¬(f x = none)) -> (∃ y, f x = some y)`.

Here are some my attempts. In all these attempts I try to teach grind `(¬(x = none)) -> (∃ y, x = some y)` and use this to prove `(¬(f x = none)) -> (∃ y, f x = some y)` using grind.

```lean
theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) : (f x ≠ none) -> (∃ y, f x = some y) := by grind
-- error: "`grind` failed"
```

```lean
-- Now let's try to teach grind this helper and use it in final theorem:
theorem helper (a : Type) (x : Option a) : (x ≠ none) -> (∃ y, x = some y) := by cases x with grind

theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) : (f x ≠ none) -> (∃ y, f x = some y) := by grind [helper]
-- error: "invalid `grind` theorem, failed to find an usable pattern using different modifiers"
```

```lean
@[grind]
theorem helper (a : Type) (x : Option a) : (x ≠ none) -> (∃ y, x = some y) := by cases x with grind
-- error: "invalid `grind` theorem, failed to find an usable pattern using different modifiers"

theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) : (f x ≠ none) -> (∃ y, f x = some y) := by grind
```

```lean
@[grind gen]
theorem helper (a : Type) (x : Option a) : (x ≠ none) -> (∃ y, x = some y) := by cases x with grind
-- error: "`@[grind . gen] theorem helper` failed to find patterns, consider using different options or the `grind_pattern` command"

theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) : (f x ≠ none) -> (∃ y, f x = some y) := by grind
```

Similarly nearly all other `@[grind]` forms (on `helper`) failed with errors pointing at `@[grind]` line. They are:
```lean
-- @[grind =]
-- @[grind = _]
-- @[grind _ = _]
-- @[grind <- =]
-- @[grind <-]
-- @[grind ->]
-- @[grind =>]
-- @[grind <=]
-- @[grind .]
-- @[grind usr]
-- @[grind cases]
-- @[grind cases eager]
-- @[grind intro]
-- @[grind ext]
-- @[grind inj]
-- @[grind unfold]
```

The only grind attributes I was able to put on helper are `funCC` and `norm`. But I still were unable to prove `final_theorem`:

```lean
@[grind funCC]
theorem helper (a : Type) (x : Option a) : (x ≠ none) -> (∃ y, x = some y) := by cases x with grind

theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) : (f x ≠ none) -> (∃ y, f x = some y) := by grind
-- error: "`grind` failed"
```

```lean
@[grind norm]
theorem helper (a : Type) (x : Option a) : (x ≠ none) -> (∃ y, x = some y) := by cases x with grind

theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) : (f x ≠ none) -> (∃ y, f x = some y) := by grind
-- error: "`grind` failed"
```

I also tried this:

```lean
attribute [grind cases] Option

theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) : (f x ≠ none) -> (∃ y, f x = some y) := by grind
-- error: "`grind` failed"
```

```lean
attribute [grind cases eager] Option

theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) : (f x ≠ none) -> (∃ y, f x = some y) := by grind
-- error: "`grind` failed"
```

You may say: "Just use `by cases (f x)`". Well, `by cases (f x)` indeed works. But, as I said previously, in fact I need to prove one big theorem (I can share it if you want), and for this grind needs to prove this ∃-statement somewhere in the middle. And so I want to teach grind to use this ∃-principle, so that I can prove whole theorem by grind.

All this was observed on nightly (`4.28.0-nightly-2026-01-04`).

(some time passes.)

Okay, while writing this bug report I noticed that this works:

```lean
theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) : (f x ≠ none) -> (∃ y, f x = some y) := by grind (config := { extAll := true })
```

So, it seems some theorem misses `@[grind ext]` attribute. How to debug this?

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by safinaskar** [comment]
I was unable to find any straightforward way to debug this, i. e. to find which ext theorem grind used.

So I came up with this hack:
```lean
theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) (c : Prop) : (f x ≠ none) -> (c /\ ∃ y, f x = some y) := by grind (config := { extAll := true })
```

This theorem is obviously wrong. And so it prints a lot of output to InfoView. And I was able to find in InfoView, which theorem grind used: `Option.ext`.

Conclusion: if grind somehow proved your theorem, and you want to know how it did this, you should turn this _true_ theorem into _false_ theorem, and then see InfoView. (By the way, I ask to add some proper debugging mechanism.)

Anyway, we found that ext theorem: `Option.ext`. It is commented so:
```lean
-- This is not a good `@[grind ext]` lemma, as it results in too much case splitting.
@[ext] theorem ext : ∀ {o₁ o₂ : Option α}, (∀ a, o₁ = some a ↔ o₂ = some a) → o₁ = o₂
```

And indeed the following works:
```lean
attribute [grind ext] Option.ext

theorem final_theorem (a : Type) (b : Type) (f : a -> Option b) (x : a) : (f x ≠ none) -> (∃ y, f x = some y) := by grind
```

I kindly ask you to mark this theorem `@[grind ext]` or maybe simply enable `extAll` by default.

(Of course, this is not necessary the only solution.)
